US04179392
Using the procedure of Example 3, 13 g of a 25% aqueous solution of tetramethylammonium hydroxide is allowed to react with 6.79 grams of gamma-n-decyl-gamma-butyrolactone. After removal of water and extraction by n-hexane, a quantitative yield of purified tetramethylammonium gamma-hydroxytetradecanoate is obtained. This white solid product has good detergent properties even in hard water.

reactant | tetramethylammonium hydroxide | [OH-].C[N+](C)(C)C
reactant | gamma-n-decyl-gamma-butyrolactone | 6.79 grams | C(CCCCCCCCC)C1CCC(=O)O1 | C14H26O2
product | tetramethylammonium gamma-hydroxytetradecanoate | quantitative yield | OC(CCC(=O)[O-])CCCCCCCCCC.C[N+](C)(C)C | InChI=1S/C14H28O3.C4H12N/c1-2-3-4-5-6-7-8-9-10-13(15)11-12-14(16)17;1-5(2,3)4/h13,15H,2-12H2,1H3,(H,16,17);1-4H3/q;+1/p-1
